US07919468B2
N-Boc-Tyr(Bn)-Leu-OH:
Same procedure as above with N-Boc-Tyr(Bn)-Leu-OMe (1.034 g, 2.073 mmol), aqueous LiOH (1 M, 2.2 mL, 2.2 mmol) in THF (15 mL). A white solid was obtained (1.035 g, 100%) which was used in the next step without further purification. 1H NMR (300 MHz, CDCl3) δ 0.90 (d, J=5 Hz, 1H, Me2 Leu), 1.40 (s, 9H, (CH3)3), 1.60 (m, 3H, CH2—CH Leu), 3.00 (m, 2H, CH2), 4.29 (m, 1H, CHα), 4.44 (m, 1H, CHα), 4.88 (s, 2H, CH2 (Bn)), 5.29 (broad s, 1H, NHBoc), 6.70 (m, 1H, NH amide), 6.91 (d, J=5 Hz, 2 aromatic H), 7.12 (d, J=5 Hz, 2 aromatic H), 7.33-7.44 (m, 5 aromatic H). 3C NMR (75 MHz, CDCl3) δ 21.8, 22.9, 24.7 (CH-Me2 Leu), 28.2 ((CH3)3), 37.0 CH2 Leu), 41.1 (CH2 Tyr), 51.6 (CHα Leu), 55.7 (CHα Tyr), 70 (CH2 (Bn)), 80.4 (C(CH3)3), 114.9, 127.5, 127.9, 128.5, 128.9, 130.5, 137.0 (11 aromatic C), 155.8, 157.8 (Car-O, CO carbamate), 172.0, 176.8 (CO acid, CO amide).

reactant | N-Boc-Tyr(Bn)-Leu-OMe | 2.073 mmol, 1.034 g | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OC(C)(C)C | C28H38N2O6
reactant | LiOH | 2.2 mmol, 1 M, 2.2 mL | [Li+].[OH-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-Boc-Tyr(Bn)-Leu-OH | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C27H36N2O6
